US05006522
5,11-Dihydro-11-[4-(hexahydro-1H-1-azepinyl)-but-2-ynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example lb) from 5,11-dihydro-11-(2-propynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, paraformaldehyde and hexahydro-1H-azepine in a yield of 35% of theory. Colourless crystals m.p. 157° C. (ethyl acetate).

reactant | 5,11-dihydro-11-(2-propynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C#C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H11N3O
reactant | paraformaldehyde | C=O | CH2O
reactant | hexahydro-1H-azepine | N1CCCCCC1 | C6H13N
product | 5,11-Dihydro-11-[4-(hexahydro-1H-1-azepinyl)-but-2-ynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 35% | N1(CCCCCC1)CC#CCN1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C22H24N4O
